US07687491B2
(17d) 1-[(4-Ethyl-5-{5-[4-(3-fluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylic acid
The title compound (83 mg) was synthesized in a yield of 54% as a white crystalline solid by conducting the reaction similar to that mentioned in Example 2 (2e) using methyl 1-[(4-ethyl-5-{5-[4-(3-fluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylate (0.16 mg, 0.32 mmol) that was obtained in Example 17 (17c), lithium hydroxide monohydrate (30 mg, 0.71 mmol), and acetic acid (39 μL, 0.71 mmol).

reactant | methyl 1-[(4-ethyl-5-{5-[4-(3-fluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylate | 0.32 mmol, 0.16 mg | C(C)C=1C=C(SC1C1=NOC(=N1)C1=CC=C(C=C1)OC1=CC(=CC=C1)F)CN1CC(C1)C(=O)OC | C26H24FN3O4S
reactant | lithium hydroxide monohydrate | 0.71 mmol, 30 mg | O.[OH-].[Li+]
reactant | acetic acid | 0.71 mmol, 39 μL | C(C)(=O)O | C2H4O2
product | 1-[(4-Ethyl-5-{5-[4-(3-fluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylic acid | 83 mg, yield of 54% | C(C)C=1C=C(SC1C1=NOC(=N1)C1=CC=C(C=C1)OC1=CC(=CC=C1)F)CN1CC(C1)C(=O)O | C25H22FN3O4S
